US06316482B1
The mixture of 4-[(1-tert-butoxycarbonyl-2-ethoxycarbonylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (75 mg) in trifluoroacetic acid (2.0 ml) was stirred at ambient temperature for 5 minutes. Trifluoroacetic acid was removed in vacuo and the residue was diluted with aqueous saturated sodium bicarbonate solution. The solution was extracted with ethyl acetate and the organic layer was washed with brine. Drying, filtering and removal of solvents afforded 4-[(2-ethoxycarbonylindol-4-yl)-carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (50 mg) as a yellow amorphous powder.

reactant | 4-[(1-tert-butoxycarbonyl-2-ethoxycarbonylindol-4-yl)carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 75 mg | C(C)(C)(C)OC(=O)N1C(=CC2=C(C=CC=C12)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC)C(=O)OCC | C44H55N5O9
solvent | trifluoroacetic acid | 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[(2-ethoxycarbonylindol-4-yl)-carbonyl]amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 50 mg | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)C(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C39H47N5O7
